US06689780B1
Preparation of N-(5-Chloropyridin-2-yl)-3-[(1-isopropylpiperidin-4-ylcarbonyl)amino]pyridine-2-carboxamide Hydrochloride
To a stirring suspension of N-(5-chloropyridin-2-yl)-3-[(piperidin-4-ylcarbonyl)amino]pyridine-2-carboxamide trifluoroacetate (0.34 g, 0.72 mmol) in 1,2-dichloroethane (10 mL) was added acetone (10 mL), followed by acetic acid (0.7 mL, 2.88 mmol) and then sodium triacetoxyborohydride (0.61 g, 2.88 mmol). After stirring overnight, the solution was loaded onto an SCX column (prewashed with 5% acetic acid in methanol) and washed with methanol. The product was then eluted from the column with a 2 N solution of ammonia in methanol. The product containing fractions were concentrated in vacuo and the compound was purified by preparative RPHPLC (C18), eluting with a linear gradient of 90/10 to 50/50 (0.01% HCl/acetonitrile) over 180 min, to give 0.14 g (44%) of a white solid.

reactant | N-(5-chloropyridin-2-yl)-3-[(piperidin-4-ylcarbonyl)amino]pyridine-2-carboxamide trifluoroacetate | 0.72 mmol, 0.34 g | FC(C(=O)O)(F)F.ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(=O)C1CCNCC1
reactant | acetone | 10 mL | CC(=O)C | C3H6O
reactant | acetic acid | 2.88 mmol, 0.7 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.88 mmol, 0.61 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | methanol | CO | CH4O
product | N-(5-Chloropyridin-2-yl)-3-[(1-isopropylpiperidin-4-ylcarbonyl)amino]pyridine-2-carboxamide Hydrochloride | 0.14 g, 44% | Cl.ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(=O)C1CCN(CC1)C(C)C | InChI=1S/C20H24ClN5O2.ClH/c1-13(2)26-10-7-14(8-11-26)19(27)24-16-4-3-9-22-18(16)20(28)25-17-6-5-15(21)12-23-17;/h3-6,9,12-14H,7-8,10-11H2,1-2H3,(H,24,27)(H,23,25,28);1H
